US05559113
4-[2-(3,5-Dichlorophenoxy)ethyl]-1H-imidazole
288 mg (60% in oil, 7.2 mmol) of sodium hydride are added to a solution of 2.34 g (14.4 mmol) of 3,5-dichlorophenol in 4 ml of dimethylformamide while cooling in an ice bath. The mixture is stirred at room temperature for 1 hour under nitrogen. 200 mg (1.20 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalytic amount) are then added. The mixture is heated at 80° C. for 3 days and then the solvent is evaporated under reduced pressure.

reactant | sodium hydride | 7.2 mmol, 288 mg | [H-].[Na+]
reactant | 3,5-dichlorophenol | 14.4 mmol, 2.34 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.20 mmol, 200 mg | Cl.ClCCC=1N=CNC1
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(3,5-Dichlorophenoxy)ethyl]-1H-imidazole | ClC=1C=C(OCCC=2N=CNC2)C=C(C1)Cl | C11H10Cl2N2O
